US04681933
5'-Amino-5-ethyl-2',5'-dideoxyuridine
5'-Azido-5-ethyl-2',5'-dideoxyuridine (300 mg) is dissolved in a mixture of water-methanol (1:1, 25 ml) and then hydrogen gas is introduced with 10% Pd/C at room temperature under 1 atmosphere for 2 hr, after which the mixture is filtered and the filtrate is evaporated to a foam (160 mg, 50%).

reactant | 5'-Azido-5-ethyl-2',5'-dideoxyuridine | 300 mg | N(=[N+]=[N-])C[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)CC)O | C11H15N5O4
reactant | hydrogen | [H][H] | H2
solvent | water methanol | 25 ml | O.CO
catalyst | Pd/C | [Pd] | Pd
product | 5'-Amino-5-ethyl-2',5'-dideoxyuridine | NC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)CC)O | C11H17N3O4
